US07317036B2
Step 1: (+/−)-(7-Fluoro-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic acid ethyl ester
A solution of 10.00 g of 4-fluoro-2-iodoaniline, 6.57 g of ehtyl 2-(2-oxocyclopentyl)acetate and 121 mg of p-toluenesulfonic acid in 100 ml of benzene was refluxed with a Dean-Stark trap under a N2 atmosphere for 24 h. After this time, the benzene was removed under distillation. Then, 60 ml of DMF was added and the solution was degassed before 19 ml of Hunig's base followed by 405 mg of Pd(OAc)2 were added successively. The solution was heated to 115° C. for 3 h, then cooled to room temperature. To quench the reaction, 300 ml of 1 N HCl and 200 ml of ethyl acetate were added and the mixture was filtered through Celite. The phases were separated and the acidic phase was extracted twice with 200 ml of ethyl acetate. The organic layers were combined, washed with brine, dried over anhydrous Na2SO4, filtered through Celite and concentrated. The crude material was further purified by flash chromatography eluting with 100% toluene to provide 5.36 g of the title compound as a yellow solid.

reactant | 4-fluoro-2-iodoaniline | 10.00 g | FC1=CC(=C(N)C=C1)I | C6H5FIN
reactant | ehtyl 2-(2-oxocyclopentyl)acetate | 6.57 g | O=C1C(CCC1)CC(=O)OCC | C9H14O3
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid | 121 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (+/−)-(7-Fluoro-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic acid ethyl ester | 5.36 g | C(C)OC(CC1CCC2=C1NC=1C=CC(=CC21)F)=O | C15H16FNO2
